US06184361B2
B. 4-(3-Amino-2,2-difluoropropylamino)-4- methyl-1-(2-nitro-1H-imidazol-1-yl)-3- pentanone oxime
To a mixture of 1,3-diamino-2,2-difluoropropane dihydrochloride (title A diamine) (1.10 g, 6.01 mmol) and N,N-diisopropylethylamine (2.72 g, 21.04 mmol) in acetonitrile (10 mL) at 40° C. was added 4-chloro-4-methyl-1-(2-nitro-1H-imidazol-1-yl)-3-nitrosopentane (Example 3,step (B) (0.50 g, 1.90 mmol) in small portions with stirring under nitrogen atmosphere. After the addition, the stirring was continued for an additional 30 minutes and the solvent was removed on a rotary evaporator. The paste obtained was treated with silica gel and the silica gel powder impregnated with the compound was loaded onto a silica gel column and eluted with CH3OH—CH2Cl2 (5.95). The fractions containing compound were collected and evaporated to give the title product as a light yellow colored solid. Yield: 0.42 g (66%), mp. 112-114° C.; 1H NMR (CDCl3) d 1.19[s, 6H, C(CH3)2], 2.88[m, 4H, C(=N)CH2 &NCH2], 3.71(t, 3H, JHF=13.19 Hz, CH2NH2), 4.72(t, 2H, J=7.26 , CH2CH2N), 7.11 & 7.26(2s, 2H, nitroimid-H) and 10.79(s, 1H, NOH). MS m/e 335 (M+H)+.

reactant | 1,3-diamino-2,2-difluoropropane dihydrochloride | Cl.Cl.NCC(CN)(F)F
reactant | N,N-diisopropylethylamine | 21.04 mmol, 2.72 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-chloro-4-methyl-1-(2-nitro-1H-imidazol-1-yl)-3-nitrosopentane | ClC(C(CCN1C(=NC=C1)[N+](=O)[O-])N=O)(C)C | C9H13ClN4O3
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-(3-Amino-2,2-difluoropropylamino)-4- methyl-1-(2-nitro-1H-imidazol-1-yl)-3- pentanone oxime | NCC(CNC(C(CCN1C(=NC=C1)[N+](=O)[O-])=NO)(C)C)(F)F | C12H20F2N6O3
